US07829559B2
A solution of (E)-2-(1,5,6,7-tetrahydro-1-phenyl-4H-indazol-4-ylidene) acetaldehyde (299 mg, 1.25 mmol) and N-benzylmethylamine (0.18 mL, 1.38 mmol) in methanol (20 mL) cooled to 0° C. is left stirring for 20 minutes. Then sodium cyanoborohydride (213 mg, 3.39 mmol) at 0° C. is added, and then it is left to increase to room temperature following the TLC reaction. The solvent is evaporated at reduced pressure, diluted in ethyl acetate, washed with water and with sodium chloride saturated solution, dried and evaporated under reduced pressure. The resulting crude product is purified by means of silica gel chromatography, giving (E)-N-benzyl-2-(6,7-dihydro-1-phenyl-1H-indazol-4(5H)-ylidene)-N-methylethanamine (158 mg, 0.46 mmol, 36%, oil).

reactant | (E)-2-(1,5,6,7-tetrahydro-1-phenyl-4H-indazol-4-ylidene) acetaldehyde | 1.25 mmol, 299 mg | C1(=CC=CC=C1)N1N=CC=2\C(\CCCC12)=C\C=O | C15H14N2O
reactant | N-benzylmethylamine | 1.38 mmol, 0.18 mL | C(C1=CC=CC=C1)CN | C8H11N
reactant | sodium cyanoborohydride | 3.39 mmol, 213 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (E)-N-benzyl-2-(6,7-dihydro-1-phenyl-1H-indazol-4(5H)-ylidene)-N-methylethanamine | 0.46 mmol, 158 mg, 36% | C(C1=CC=CC=C1)N(C/C=C\1/C=2C=NN(C2CCC1)C1=CC=CC=C1)C | C23H25N3
